US06310203B1
a) 5,8-Difluorophthalazine-1,4-dione
3,6-Difluorophthalic anhydride (10 g, 54 mmol) was added to a mixture of sodium acetate trihydrate (10 g, 73 mmol) and hydrazine hydrate (5 ml, 156 mmol) in 40% aqueous acetic acid. The reaction was heated under reflux conditions for 16 h and the reaction was filtered to give the title-compound as a white solid (10.5 g, 98%), 1H NMR (250 MHz, d6-DMSO) δ 8.01 (2H, t, J=9 Hz), 11.50-11.80 (2H, br s).

reactant | 3,6-Difluorophthalic anhydride | 54 mmol, 10 g | FC1=C2C(C(=O)OC2=O)=C(C=C1)F | C8H2F2O3
reactant | sodium acetate trihydrate | 73 mmol, 10 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | hydrazine hydrate | 156 mmol, 5 ml | O.NN
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5,8-Difluorophthalazine-1,4-dione | 10.5 g, 98% | FC1=C2C(N=NC(C2=C(C=C1)F)=O)=O | C8H2F2N2O2
